US09359381B2
Step 4: 3-(6-(3-(4-Chlorothiazol-2-yl)-3-hydroxypropyl)-1,3-dimethyl-2,4-dioxo-2,3,4,6-tetrahydro-1H-pyrrolo[3,4-d]pyrimidin-5-yl)benzonitrile
Sodium borohydride (408 mg, 10.80 mmol) was added to a solution of 3-(6-(3-(4-chlorothiazol-2-yl)-3-oxopropyl)-1,3-dimethyl-2,4-dioxo-2,3,4,6-tetrahydro-1H-pyrrolo[3,4-d]pyrimidin-5-yl)benzonitrile (490 mg, 1.080 mmol) in methanol (20 mL). The mixture was stirred at room temp. for 25 mins, then quenched with saturated NaHCO3(aq) and extracted with chloroform (3×). The combined organic extracts were passed through a hydrophobic frit and evaporated under vacuum to afford the title compound.

reactant | Sodium borohydride | 10.80 mmol, 408 mg | [BH4-].[Na+]
reactant | 3-(6-(3-(4-chlorothiazol-2-yl)-3-oxopropyl)-1,3-dimethyl-2,4-dioxo-2,3,4,6-tetrahydro-1H-pyrrolo[3,4-d]pyrimidin-5-yl)benzonitrile | 1.080 mmol, 490 mg | ClC=1N=C(SC1)C(CCN1C=C2N(C(N(C(C2=C1C=1C=C(C#N)C=CC1)=O)C)=O)C)=O | C21H16ClN5O3S
solvent | methanol | 20 mL | CO | CH4O
product | 3-(6-(3-(4-Chlorothiazol-2-yl)-3-hydroxypropyl)-1,3-dimethyl-2,4-dioxo-2,3,4,6-tetrahydro-1H-pyrrolo[3,4-d]pyrimidin-5-yl)benzonitrile | ClC=1N=C(SC1)C(CCN1C=C2N(C(N(C(C2=C1C=1C=C(C#N)C=CC1)=O)C)=O)C)O | C21H18ClN5O3S
